US07417060B2
A mixture of (4-bromo-2-cyclohexyloxyphenyl)acetonitrile (1.45 g) and potassium hydroxide (829 mg) in ethanol (17.4 ml) and water (5 ml) was refluxed for 22 hours. Ethanol was removed by evaporation under reduced pressure. To the residue were added water and a mixture of hexane and ethyl acetate (1:1). After separation, the aqueous layer was adjusted below pH 3 with concentrated hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, evaporated and dried in vacuo to give (4-bromo-2-cyclohexyloxyphenyl)acetic acid (1.34 g).

reactant | (4-bromo-2-cyclohexyloxyphenyl)acetonitrile | 1.45 g | BrC1=CC(=C(C=C1)CC#N)OC1CCCCC1 | C14H16BrNO
reactant | potassium hydroxide | 829 mg | [OH-].[K+]
reactant | ethanol | 17.4 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | (4-bromo-2-cyclohexyloxyphenyl)acetic acid | 1.34 g | BrC1=CC(=C(C=C1)CC(=O)O)OC1CCCCC1 | C14H17BrO3
